US04010279
2-Methyl-2-{4-[(2-methoxy-5-chloro-benzamido)-methyl]-biphenyl-4'-oxy}-propanol
1.8 gm (3.74 millimols) of ethyl 2-methyl-2-{4-[(2-methoxy-5-chloro-benzamido)-methyl]-biphenyl-4'-oxy}-propionate were reduced to the alcohol by heating in 50 ml of ether with 0.1 gm (3.8 millimols) of lithium aluminum hydride at the boiling point of the solvent for 15 minutes. After decomposition with water, drying of the ether phase over sodium sulfate, and distilling off the ether, the alcohol was purified on a silicagel column with benzene/ethyl acetate (6:4) as the eluant. Yield: 0.5 gm (30% of theory); m.p. 109° C.

reactant | ethyl 2-methyl-2-{4-[(2-methoxy-5-chloro-benzamido)-methyl]-biphenyl-4'-oxy}-propionate | 3.74 millimols, 1.8 gm | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(C1=C(C=CC(=C1)Cl)OC)=O | C27H28ClNO5
reactant | lithium aluminum hydride | 3.8 millimols, 0.1 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-Methyl-2-{4-[(2-methoxy-5-chloro-benzamido)-methyl]-biphenyl-4'-oxy}-propanol | CC(CO)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(C1=C(C=CC(=C1)Cl)OC)=O | C25H26ClNO4
